datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CC[O:92][C:61]([C-:10](OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62]>>CC[O:92][C:61]([C:10](OC)([CH2:20][CH:21]=[C:22]([O-:23])[O:33]C(C)(C)C)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])/[CH:62]=[CH:63]/C.C[N+:21](C1=CC=CC=C1)=[CH2:20]>>C[C+:11]([CH2:10][CH2:20][N:21](C)C1=CC=CC=C1)/[CH:62]=[CH:63]/C 10,11=10,20;20,21=21"
"COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.C[C-:10]1[C:61](=[O:62])[O:72]CC[C:81]1=[O:82]>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([C:10]1(C)[C:61](=[O:62])[O:72]CC[C:81]1=[O:82])[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10=20;20,21=21,22;22,23=23"
"C[C:11](CC1=CC=CC=C1)=[CH2:10].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>C[C+:11](CC1=CC=CC=C1)[CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[CH:33]=[C:34]1[N+](=O)[O-] 10,11=10,20;20,21=21,22;22,23=23"
"[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1.[N:10]1=[CH:11][N-:12][C:61]([N+:72](=[O:73])[O-:83])=[CH:62]1>>[N:10]1([CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]2)[CH:11]=[N:12][C:61]([N+:72](=[O:73])[O-:83])=[CH:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[NH2:10].C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CC(C)[NH2+:10][CH:20]1CC[C:22]([O-:23])=[C:21]1C 10=20;20,21=21,22;22,23=23"
"CCC[O:62][Si:11](C)(C)[H:10].CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CCC[O:62][Si+:11](C)C.CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.[C-:10]([C:81]#[N:82])([C:91]([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:92])[C:101]1=[CH:102][CH:103]=[CH:104][CH:113]=[CH:112]1>>C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH:20]([C:10]([C:81]#[N:82])([C:91]([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:92])[C:101]1=[CH:102][CH:103]=[CH:104][CH:113]=[CH:112]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28 10=20
"C1=CC=C(C[N:12]2CC[N:10]=[C:11]2C2=CC=CC=C2)C=C1.C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([N:10]2CC[N+:12](CC3=CC=CC=C3)=[C:11]2C2=CC=CC=C2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:21](=[O:20])C1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](C)[CH:83]=[CH:82]1>>C1CC[C-:21]([O:20][H:10])C1.C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](C)[CH:83]=[CH:82]1 10,11=10,20;20,21=21"
[C-:10]([C:61]#[N:62])([C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1)[C:91]#[N:92].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2:20][C:10]([C:61]#[N:62])([C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1)[C:91]#[N:92])[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10=20
"C[C:61]([S-:10])=[O:62].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>C[C:61]([S:10][CH:20]1CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])=[O:62] 10=20;20,21=21"
"C[C:61]([CH-:10][C:71](C)=[O:72])=[O:62].N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[C:61]([CH:10]([C:20]1(C#N)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33])[C:71](C)=[O:72])=[O:62] 10=20;20,21=21,22;22,23=23"
CN1CCCC1[C:62]1=[CH:63][CH:72]=[CH:71][N:10]=[CH:61]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[CH:61][C:62](C3CCCN3C)=[CH:63][CH:72]=[CH:71]2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCOCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C2=CC=CC=C2)[C:11](=[N+:12]2CCOCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"C[C:63]1=[C:62]([CH:11]=[CH2:10])[C:73](C)=[CH:74][C:65](C)=[CH:64]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>C[C:63]1=[C:62]([CH+:11][CH2:10][CH2:20][C:31]23C4(C5=CC=CC=C5)[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])C#[O+])[C:73](C)=[CH:74][C:65](C)=[CH:64]1 10,11=10,20"
